US04808729
5-(3-Bromopropoxy)-1,2,3,4-tetrahydronaphthalene
The title compound was prepared according to the procedure of Example 7 using 5,6,7,8-tetrahydronaphthalene-1-ol (10 g, 0.067 mol) in methylene chloride (100 ml), sodium hydroxide (5.5 g, 0.134 mol) in water (100 ml), 1,3-dibromopropane (47 g, 0.23 mol) and tetra-n-butylammonium bisulfate (23 g, 0.067 mol). Chromatography of the crude product on silica gel using 1% ethyl acetate/hexane as eluent gave 12 g (60%) of the title compound as an oil.

reactant | 5,6,7,8-tetrahydronaphthalene-1-ol | 0.067 mol, 10 g | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | sodium hydroxide | 0.134 mol, 5.5 g | [OH-].[Na+]
reactant | 1,3-dibromopropane | 0.23 mol, 47 g | BrCCCBr | C3H6Br2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
catalyst | tetra-n-butylammonium bisulfate | 0.067 mol, 23 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-(3-Bromopropoxy)-1,2,3,4-tetrahydronaphthalene | 12 g, 60% | BrCCCOC1=C2CCCCC2=CC=C1 | C13H17BrO
